US05952355
Substantially the same procedure as in Example 3 was repeated using 6-nitroindole-3-carboxaldehyde (2.3 g) and acetic anhydride (2.47 g) to give 1-acetyl-6-nitroindole-3-carboxaldehyde (2.62 g).

reactant | 6-nitroindole-3-carboxaldehyde | 2.3 g | [N+](=O)([O-])C1=CC=C2C(=CNC2=C1)C=O | C9H6N2O3
reactant | acetic anhydride | 2.47 g | C(C)(=O)OC(C)=O | C4H6O3
product | 1-acetyl-6-nitroindole-3-carboxaldehyde | 2.62 g | C(C)(=O)N1C=C(C2=CC=C(C=C12)[N+](=O)[O-])C=O | C11H8N2O4
